.lib /home/sumit/eda_tools/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt

* Deivce Parameters:
*--------------
.subckt INVX2 A VPWR VGND Y
X0 Y A VPWR VPWR sky130_fd_pr__pfet_01v8 ad=0.405 pd=3.3 as=0.405 ps=3.3 w=1.35 l=0.15
X1 Y A VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
X2 VPWR A Y VPWR sky130_fd_pr__pfet_01v8 ad=0.405 pd=3.3 as=0.405 ps=3.3 w=1.35 l=0.15
X3 VGND A Y VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15

C0 A Y 0.15021f
C1 VPWR Y 0.34447f
C2 A VPWR 0.16516f
C3 Y VGND 0.34994f
C4 A VGND 0.51422f
C5 VPWR VGND 1.32491f
.ends

.subckt INVX1 A VPWR VGND Y
X0 Y A VPWR VPWR sky130_fd_pr__pfet_01v8 ad=0.405 pd=3.3 as=0.405 ps=3.3 w=1.35 l=0.15
**devattr s=16200,660 d=16200,660
X1 Y A VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
**devattr s=5040,288 d=5040,288
C0 VPWR Y 0.13766f
C1 VPWR A 0.10451f
C2 Y A 0.03664f
C3 Y VGND 0.40665f
C4 VPWR VGND 0.82521f
.ends


* The voltage source:
*--------------------------------------------------------
VDD vdd 0 DC 1.8

VIN in 0 PULSE(0 1.8 0 20p 20p 2n 4n)

.tran 1p 6n
*--------------------------------------------------------
XINV1 in vdd 0 out INVX2
XINV2 out vdd 0 load INVX1

*--------------------------------------------------------
.meas tran tr TRIG V(out) VAL=0.18 RISE=1 TARG V(out) VAL=1.62 RISE=1
.meas tran tf TRIG V(out) VAL=1.62 FALL=1 TARG V(out) VAL=0.18 FALL=1


.meas tran tphl TRIG V(in) VAL=0.9 RISE=1 TARG V(out) VAL=0.9 FALL=1
.meas tran tplh TRIG V(in) VAL=0.9 FALL=1 TARG V(out) VAL=0.9 RISE=1
*--------------------------------------------------------


.control
run

plot V(in) V(out)
plot V(in) V(load)
meas tran VM find V(out) when V(in)=V(out) cross=-1
print VM

.endc

.end