* NGSPICE file created from AND2.ext - technology: sky130A

.subckt AND2 A B VPWR VGND Y
X0 Y x2 x1 VPWR sky130_fd_pr__pfet_01v8 ad=2.835 pd=19.5 as=2.835 ps=19.5 w=9.45 l=0.15
**devattr s=113400,3900 d=113400,3900
X1 Y A VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
**devattr s=5040,288 d=5040,288
X2 VPWR B x2 VPWR sky130_fd_pr__pfet_01v8 ad=0.405 pd=2.85 as=0.405 ps=3.3 w=1.35 l=0.15
**devattr s=16200,660 d=16200,660
X3 Y x2 VGND VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
**devattr s=5040,288 d=5040,288
X4 VGND B x2 VGND sky130_fd_pr__nfet_01v8 ad=0.126 pd=1.44 as=0.126 ps=1.44 w=0.42 l=0.15
**devattr s=5040,288 d=5040,288
X5 x1 A VPWR VPWR sky130_fd_pr__pfet_01v8 ad=2.835 pd=19.5 as=2.835 ps=19.95 w=9.45 l=0.15
**devattr s=113400,3900 d=113400,3900
C0 x2 B 0.04077f
C1 Y B 0
C2 x2 A 0.00564f
C3 Y A 0.01917f
C4 B x1 0
C5 B VPWR 0.0984f
C6 x1 A 0.08424f
C7 VPWR A 0.19645f
C8 x2 Y 0.15157f
C9 x2 x1 0.08424f
C10 Y x1 0.41933f
C11 x2 VPWR 0.22574f
C12 Y VPWR 0.47388f
C13 x1 VPWR 0.85838f
C14 Y VGND 0.57099f
C15 VPWR VGND 5.96369f
C16 x1 VGND 0.20201f
.ends

