AND2 PEX input-capacitance characterization
* Capacitance = charge delivered/absorbed by an input source divided by VDD.
* Each input is toggled with the other input held at its sensitizing value:
* B=0 for A, and A=1.8 V for B.  Outputs are unloaded except for PEX parasitics.

.lib /home/sumit/eda_tools/open_pdks/sky130/sky130A/libs.tech/ngspice/sky130.lib.spice tt
.include and2_pex.spice
.include invx1_pex.spice

.param SR = 10e-12
.param Cl = 0.5e-15

.param TR = 2e-9 - SR

VDD vdd 0 1.8

VIN1 in1 0 PULSE(1.8 0 0 {SR} {SR} {TR} 4n)
VIN2 in2 0 1.8

XAND1 in2 in1 vdd 0 out AND2
*XINV1 out 0 VDD 0 INVX1
Cload out 0 {Cl}

.tran 1p 8n
    .meas tran tr TRIG V(out) VAL=0.36 RISE=1 TARG V(out) VAL=1.44 RISE=1
    .meas tran tf TRIG V(out) VAL=1.44 FALL=1 TARG V(out) VAL=0.36 FALL=1

    .meas tran tphl TRIG V(in1) VAL=0.9 RISE=1 TARG V(out) VAL=0.9 RISE=1
    .meas tran tplh TRIG V(in1) VAL=0.9 FALL=1 TARG V(out) VAL=0.9 FALL=1

    .meas tran q_a_rise INTEG par('-i(VIN1)') FROM=2n TO= '2n+SR'
    .meas tran q_a_fall INTEG par('i(VIN1)')  FROM=4n TO= '4n+SR'

    .meas tran a_rise_cap PARAM='q_a_rise/1.8'
    .meas tran a_fall_cap PARAM='q_a_fall/1.8'
    .meas tran a_average_cap PARAM='(a_rise_cap+a_fall_cap)/2'
.control
run


    *plot V(in1) V(in2) 
    *plot  V(in1) V(out) 
    *plot I(vdd)
    print tr tf tphl tplh
    *print q_b_rise q_b_fall 
    print a_rise_cap a_fall_cap a_average_cap

.endc

.end